US06713499B2
N-(7-Diethylamino-4-methoxy-benzothiazol-2-yl)-2-methyl-isonicotinamide
From 4-methoxy-benzothiazole-2,7-diamine with potassium carbonate and iodoethane in DMF, then treatment with 2-methyl-isonicotinic acid hydrochloride, HATU and N-ethyldiisopropylamine in THF. ES-MS m/e (%): 371 (M+H+, 100).

reactant | 4-methoxy-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)N | C8H9N3OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | ICC | C2H5I
reactant | 2-methyl-isonicotinic acid hydrochloride | Cl.CC=1C=C(C(=O)O)C=CN1
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | N-(7-Diethylamino-4-methoxy-benzothiazol-2-yl)-2-methyl-isonicotinamide | C(C)N(C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)C)=O)OC)CC | C19H22N4O2S
